US08404684B2
Step 3) 2-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-ethylamine
TFA (0.5 ml) is added to a stirred solution of [2-(3-propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester (0.093 g, 0.39 mmol) in DCM (1 ml). After 1 hour the solvents are removed to afford the titled compound.

reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | [2-(3-propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | 0.39 mmol, 0.093 g | C(C)(C)(C)OC(NCCC1=NC(=NO1)CCC)=O | C12H21N3O3
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-ethylamine | C(C)C1=NOC(=N1)CCN | C6H11N3O
